US05618812
Cis-4-cyclohexene-1,2-dicarboximide (10.9 g) was hydrogenated over 10% palladium on carbon (1 g) in absolute ethanol (420 ml) at 50 psi for 10 minutes. The mixture was filtered then evaporated to give cis-cyclohexane-1,2-dicarboximide (10.6 g). To anhydrous diethyl ether (200 ml) was cannulated under nitrogen a 1M diethyl ether solution (200 ml) of lithium aluminium hydride. To the foregoing solution, under reflux, was added cis-cyclohexane-1,2-dicarboximide (10.6 g) portionwise over 10 minutes. The reaction mixture was heated to reflux for 3 hours. After cooling to 0° C., water (7 ml) was added followed by 4N sodium hydroxide (7.6 ml) and water (23 ml). The white suspension was stirred whilst warming to room temperature. The solid was removed by filtration then the filtrate dried (sodium sulphate) and evaporated to give a cream oil.

reactant | Cis-4-cyclohexene-1,2-dicarboximide | 10.9 g | [C@@H]12[C@@H](CC=CC1)C(NC2=O)=O | C8H9NO2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 420 ml | C(C)O | C2H6O
product | cis-cyclohexane-1,2-dicarboximide | 10.6 g | [C@@H]12[C@@H](CCCC1)C(NC2=O)=O | C8H11NO2
